US08609727B2
4-{(4E)-3-(4-Carboxybenzyl)-5-[2-({4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]benzyl}oxy)-phenyl]pent-4-en-1-yl}benzoic Acid
A solution of 170 mg (0.25 mmol) of methyl 4-{(4E)-3-(4-cyanobenzyl)-5-[2-({4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]benzyl}oxy)phenyl]pent-4-en-1-yl}benzoate in 3 ml of 1-propanol and 2 ml of water is mixed with 427 mg (7.6 mmol) of potassium hydroxide and stirred at 110° C. for 12 h. After cooling, the mixture is acidified with 1 M hydrochloric acid, and the crystals which have separated out are filtered off with suction, washed several times with water and dried. 135 mg (0.2 mmol, 79% of theory) of the title compound are obtained.

reactant | methyl 4-{(4E)-3-(4-cyanobenzyl)-5-[2-({4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]benzyl}oxy)phenyl]pent-4-en-1-yl}benzoate | 0.25 mmol, 170 mg | C(#N)C1=CC=C(CC(CCC2=CC=C(C(=O)OC)C=C2)\C=C\C2=C(C=CC=C2)OCC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)F)C=C1 | C37H30F7NO3
reactant | potassium hydroxide | 7.6 mmol, 427 mg | [OH-].[K+]
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | 1-propanol | 3 ml | C(CC)O | C3H8O
solvent | water | 2 ml | O | H2O
product | 4-{(4E)-3-(4-Carboxybenzyl)-5-[2-({4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]benzyl}oxy)-phenyl]pent-4-en-1-yl}benzoic Acid | C(=O)(O)C1=CC=C(CC(CCC2=CC=C(C(=O)O)C=C2)\C=C\C2=C(C=CC=C2)OCC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)F)C=C1 | C36H29F7O5
